US03970754
Preparation of 3-cyclohexyl-1-methyl-2-pyrazolin-5-one
To ethyl 3-oxo-cyclohexanepropionic acid (4.4 g, 0.234 mole) in n-propanol (500 ml) is added dropwise with stirring under nitrogen at 80°C. methylhydrazine (13.8 g, 0.3 mole). After heating at reflux during 5 hours, the reaction is cooled and evaporated to a residual oil. Crystallization from ethylacetate gives a white powder mp 170.5°C. to 172°C.

reactant | ethyl 3-oxo-cyclohexanepropionic acid | 0.234 mole, 4.4 g | C(C)C1(CC(CCC1)=O)CCC(=O)O | C11H18O3
reactant | methylhydrazine | 0.3 mole, 13.8 g | CNN | CH6N2
solvent | n-propanol | 500 ml | C(CC)O | C3H8O
product | 3-cyclohexyl-1-methyl-2-pyrazolin-5-one | C1(CCCCC1)C1=NN(C(C1)=O)C | C10H16N2O
